US05153210
A mixture of 4,5-dihydro-6-(p-hydroxyphenyl)-3(2H)pyridazinone (0.55 g), chloroacetone (0.32 g) and potassium carbonate (0.4 g), with a catalytic amount of potassium iodide, was stirred and heated under reflux in acetone (60 ml) for 16 hr. The solvent was evaporated and the residue partitioned between water and ethyl acetate. The organic layer was dried (MgSO4) and evaporated to a gum which was purified by chromatography on Silica gel. Elution with methanol-chloroform (4:96) gave 4,5-dihydro-6-(4-acetonyloxyphenyl)-3(2H)-pyridazinone as a pale yellow solid.

reactant | 4,5-dihydro-6-(p-hydroxyphenyl)-3(2H)pyridazinone | 0.55 g | OC1=CC=C(C=C1)C=1CCC(NN1)=O | C10H10N2O2
reactant | chloroacetone | 0.32 g | ClCC(C)=O | C3H5ClO
reactant | potassium carbonate | 0.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | 4,5-dihydro-6-(4-acetonyloxyphenyl)-3(2H)-pyridazinone | C(C(=O)C)OC1=CC=C(C=C1)C=1CCC(NN1)=O | C13H14N2O3
